US09108921B2
Step C: methyl 4-amino-2-cyanobenzoate (30D)
To a solution of methyl 2-cyano-4-nitrobenzoate (0.9 g, 4.4 mmol) in MeOH (5 mL) was added Pd/C (0.1 g). The resulting mixture was stirred at room temperature for 2 hours under hydrogen atmosphere. The mixture was filtered, and the filtrate was evaporated to dryness under reduced pressure to give the title product (0.77 g), which was used in the next step without further purification. LC-MS: m/z 177.2 (M+H)+

reactant | methyl 2-cyano-4-nitrobenzoate | 4.4 mmol, 0.9 g | C(#N)C1=C(C(=O)OC)C=CC(=C1)[N+](=O)[O-] | C9H6N2O4
solvent | MeOH | 5 mL | CO | CH4O
catalyst | Pd/C | 0.1 g | [Pd] | Pd
product | methyl 4-amino-2-cyanobenzoate | 0.77 g | NC1=CC(=C(C(=O)OC)C=C1)C#N | C9H8N2O2
